US05948914
A 200-ml four-necked glass flask equipped with a thermometer and a reflux condenser was charged with 63 ml of toluene and 10.54 g (50.37 mmol) of (-)-(3S,4R)-4-(4-fluorophenyl)-3-hydroxymethylpiperidine, and the mixture was warmed and dissolved. 1.13 g (62.71 mmol) of water was added to the above mixture at 50° C. to allow to crystallize. Thereafter, the mixture was kept for one hour at a temperature of from 20° to 30° C., and then the crystals were collected by filtration. The obtained crystals were thoroughly washed with 20 ml of toluene, to give white crystals of (-)-(3S,4R)-4-(4-fluorophenyl)-3-hydroxymethylpiperidine monohydrate. Thereafter, the crystals were dried under a reduced pressure at a temperature of 30° C. or lower, and weighed 10.24 g. The yield was 89.45% based on (-)-(3S,4R)-4-(4-fluorophenyl)-3-hydroxymethylpiperidine.

reactant | (-)-(3S,4R)-4-(4-fluorophenyl)-3-hydroxymethylpiperidine | 50.37 mmol, 10.54 g | FC1=CC=C(C=C1)[C@H]1[C@@H](CNCC1)CO | C12H16FNO
reactant | water | 62.71 mmol, 1.13 g | O | H2O
solvent | toluene | 63 ml | C1(=CC=CC=C1)C | C7H8
product | (-)-(3S,4R)-4-(4-fluorophenyl)-3-hydroxymethylpiperidine monohydrate | yield was 89.45% | O.FC1=CC=C(C=C1)[C@H]1[C@@H](CNCC1)CO | InChI=1S/C12H16FNO.H2O/c13-11-3-1-9(2-4-11)12-5-6-14-7-10(12)8-15;/h1-4,10,12,14-15H,5-8H2;1H2/t10-,12-;/m0./s1
